US07417060B2
To a solution of methyl 4′-[2-[benzyl(tert-butoxycarbonyl)amino)ethyl]-3-(isopropylamino)-4-biphenylcarboxylate (768 mg) in tetrahydrofuran (8 ml) was added 4N hydrogen chloride solution in 1,4-dioxane (8 ml) at 0° C., and the mixture was stirred at room temperature overnight. The mixture was evaporated under reduced pressure and the residue was diluted with chloroform and water. The mixture was basified with aqueous solution of sodium hydroxide (1N) and the organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure to give methyl 4′-[2-(benzylamino)ethyl]-3-(isopropylamino)-4-biphenylcarboxylate (600 mg).

reactant | methyl 4′-[2-[benzyl(tert-butoxycarbonyl)amino)ethyl]-3-(isopropylamino)-4-biphenylcarboxylate | 768 mg | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)NC(C)C)C(=O)OC(C)(C)C | C31H38N2O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | methyl 4′-[2-(benzylamino)ethyl]-3-(isopropylamino)-4-biphenylcarboxylate | 600 mg | C(C1=CC=CC=C1)NCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)NC(C)C | C26H30N2O2
